US04567176
2-[2-(5-Dimethylaminomethylfuran-2-ylmethylthio)ethylamino]-1-methyl-imidazolin-4-one
2-(5-Dimethylaminomethylfuran-2-ylmethylthio)ethylamine (2.25 g), 1-methyl-2-methylthio-imidazolin-4-one hydroiodide (2.85 g) and triethylamine (3.635 g) were refluxed in ethanol (25 ml) for 4 hours.

reactant | 2-(5-Dimethylaminomethylfuran-2-ylmethylthio)ethylamine | 2.25 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 1-methyl-2-methylthio-imidazolin-4-one hydroiodide | 2.85 g | I.CN1C(=NC(C1)=O)SC
reactant | triethylamine | 3.635 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-[2-(5-Dimethylaminomethylfuran-2-ylmethylthio)ethylamino]-1-methyl-imidazolin-4-one | CN(C)CC1=CC=C(O1)CSCCNC=1N(CC(N1)=O)C | C14H22N4O2S
